US07538112B2
Step 6: 10-(Benzyloxy)-6,8-dimethyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
A solution of ethyl 8-(benzyloxy)-2,4-dimethyl-1-oxo-6-formyl-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate (0.29 g, 0.79 mmol), and hydrazine monohydrate (0.20 mL, 3.96 mmol) in glacial acetic acid (2 mL) was heated in a microwave oven at 100° C. for 5 minutes. The reaction mixture was concentrated under vacuum and the residue partitioned between dichloromethane and aqueous sodium bicarbonate. The organic extract was dried over MgSO4, filtered, and concentrated to provide the titled dione.

reactant | ethyl 8-(benzyloxy)-2,4-dimethyl-1-oxo-6-formyl-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | 0.79 mmol, 0.29 g | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2C)C)=O)C=O)C(=O)OCC | C20H22N2O5
reactant | hydrazine monohydrate | 3.96 mmol, 0.20 mL | O.NN
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 10-(Benzyloxy)-6,8-dimethyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | C(C1=CC=CC=C1)OC1=C2N(C=3C=NNC(C31)=O)C(CN(C2=O)C)C | C18H18N4O3
